US05569662
(3R,4S,5S,6S)-N-(1-Carbamoylethyl)-5-(5-isopropyl-2-methoxybenzylamino)-6-diphenylmethyl-1-azabicyclo[2.2.2]octane-3-carboxamide
To a mixture of (3R,4S ,5S ,6S)-5-(5-isopropyl-2-methoxybenzylamino)-6-diphenylmethyl-1-azabicyclo[2.2.2]octane-3-carboxylic acid dihydrochloride (300 mg, 0.5 mmol), alaninamide hydrobromide (100 mg, 0.6 mmol) and triethylamine (70 mg, 0.7 mmol) in DMF (2 ml) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (160 mg, 0.8 mmol) at 0° C. The mixture was stirred at 0° C. for 30 minutes, then at room temperature for 14 hours. Water and NaHCO3 were added and the mixture was extracted with CH2Cl2. The combined extracts were dried, concentrated and purified by a column chromatography on silica-gel (CH2Cl2 /methanol=10:1) to give a title compound (220 mg, 0.39 mmol, 77%).

reactant | (3R,4S ,5S ,6S)-5-(5-isopropyl-2-methoxybenzylamino)-6-diphenylmethyl-1-azabicyclo[2.2.2]octane-3-carboxylic acid dihydrochloride | 0.5 mmol, 300 mg | Cl.Cl.C(C)(C)C=1C=CC(=C(CN[C@H]2[C@@H]3[C@H](CN([C@H]2C(C2=CC=CC=C2)C2=CC=CC=C2)CC3)C(=O)O)C1)OC
reactant | alaninamide hydrobromide | 0.6 mmol, 100 mg | Br.N[C@@H](C)C(=O)N
reactant | triethylamine | 0.7 mmol, 70 mg | C(C)N(CC)CC | C6H15N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.8 mmol, 160 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | (3R,4S,5S,6S)-N-(1-Carbamoylethyl)-5-(5-isopropyl-2-methoxybenzylamino)-6-diphenylmethyl-1-azabicyclo[2.2.2]octane-3-carboxamide | 0.39 mmol, 220 mg, 77% | C(N)(=O)C(C)NC(=O)[C@H]1CN2[C@H]([C@H]([C@H]1CC2)NCC2=C(C=CC(=C2)C(C)C)OC)C(C2=CC=CC=C2)C2=CC=CC=C2 | C35H44N4O3
